US09278968B2
To a mixture of 2 g of N-hydroxy-1-(6-methoxypyridin-3-yl)methanimine, 50 ml of acetonitrile, and 50 ml of an aqueous phosphate buffer solution (pH 6.9) was added a mixed liquid of 20 g of potassium peroxymonosulfate (Oxone: 2KHSO5.KHSO4.K2SO4) in 50 ml water and 50 ml of acetone at room temperature, followed by stirring at 45° C. for 4 hours. The insoluble materials were separated by filtration and washed with diethyl ether. The organic layer was washed with a saturated aqueous sodium sulfite solution and a saturated aqueous sodium chloride solution, and dried over anhydrous magnesium sulfate, and the solvent was then evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography to obtain 251 mg of 2-methoxy-5-(nitromethyl)pyridine.

reactant | N-hydroxy-1-(6-methoxypyridin-3-yl)methanimine | 2 g | ON=CC=1C=NC(=CC1)OC | C7H8N2O2
reactant | acetonitrile | 50 ml | C(C)#N | C2H3N
reactant | phosphate | 50 ml, pH 6.9 | P(=O)([O-])([O-])[O-]
reactant | potassium peroxymonosulfate | 20 g | S(=O)(=O)(O[O-])[O-].[K+].[K+]
solvent | water | 50 ml | O | H2O
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | 2-methoxy-5-(nitromethyl)pyridine | 251 mg | COC1=NC=C(C=C1)C[N+](=O)[O-] | C7H8N2O3
